reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C-:3]#[O+:4].[O:1](/[C:2](=[C:5](\[O:6][H:9])[H:10])[H:8])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],35.78522734477054
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](/[C:4](=[C:5](/[O:6][H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],65.8714978721121
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[C:6]12.[H:13][H:14],113.71411937048799
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([N+:5]#[C-:4])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],60.103589510341905
[O:1]([C:2]([C:3]([C:4](=[O:5])[H:12])=[C:6]=[C:7]([H:11])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],77.9674242836242
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([O+:6]=[C-:5][H:14])[H:13])([H:7])([H:8])[H:9],119.58023564895299
[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],72.31186898969901
[C:1]([O+:2]=[C-:3][O:4][C:5](=[O:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9],18.6706091905696
[C:1]([C:2]([C:3]([O:4][C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[O:4]([C:5]([H:13])([H:14])[H:15])[H:9],68.5951565047506
[C:1]([C:2]([N:6]([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3](=[C:4]=[O:5])([H:12])[H:13]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],71.02771399919138
[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:5]1=[N:6][C:4]1([H:10])[H:11]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],39.30801315581819
[C:1]([C:2]([N:3]=[C:4]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])([C:7]([H:16])([H:17])[H:18])[H:15]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],56.4212021535559
[C:1](=[C:2]([C:3]([C@:4]1([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])=[C:7]1[H:17])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],76.0456268065102
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([N+:6]#[C-:5])[H:10])([H:7])([H:8])[H:9],59.1506884760417
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[C:6][H:8]>>[O:1]=[C:2]([C:3](=[C:4])[H:7])[C:5]#[C:6][H:8],41.6426408156222
[C:1]1([H:8])([H:10])[C@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([H:11])/[C:6]1=[N:7]/[H:9]>>[C:1]([C@@:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],72.02227563801219
[N:1]([C:2]([C@@:3]([N:4]([H:12])[H:13])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C@:2]1([H:10])[C@:3]([N:4]([H:12])[H:13])([H:11])[C:5]1=[N:6][H:9])([H:7])[H:8],108.08648692582199
[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C:1]([C:2]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],108.433841091618
[C+:1](=[C:2]=[C-:3][N:5]([C:4]([H:7])([H:8])[H:9])[H:10])[H:6]>>[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],55.30257408144751
[O:1]1[C@:2]2([H:8])[C@@:3]1([H:9])[O:4][C@@:5]2([O:6][H:7])[H:10]>>[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],16.9017283380658
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[H:11][H:12].[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1=[C:5]=[O:6])[H:7],90.5971351164753
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3][H:13])([C@@:7]1([H:17])[C@@:4]([O:5][H:14])([H:12])[C:6]1([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],83.876608920951
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C-:2]=[O+:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8],79.7530904514675
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6][O:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],80.2019799000315
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2](/[C:3]([O:4][C:6]([H:12])([H:13])[H:14])=[N:5]\[H:11])[H:10])([H:7])([H:8])[H:9],78.76319961762279
